US07141569B2
A solution of 1-[5-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3yl]ethanone (1.14 g, 3.26 mmol) in N,N-dimethylformamide dimethyl acetal (25 mL) was heated at reflux for 5 days. The mixture was allowed to cool to room temperature. Water was added and the resulting mixture was extracted with ethyl acetate. The organic phase was dried (magnesium sulfate), filtered and concentrated. The resulting residue was crystallized from ethyl acetate to give 1-[5-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (1.05 g, 80%) as a yellow solid. 1H NMR (CDCl3): δ 8.11 (d, 1H), 7.56 (m, 3H), 7.41 (d, 1H), 6.95 (d, 2H), 6.22 (dd, 1H), 5.07 (d, 1H), 4.11 (d, 1H), 3.95 (m, 1H), 3.84 (s, 3H), 3.0–2.3 (broad, 6H), 2.12 (m, 2H), 1.74–1.48 (m, 6H); MS m/z 405 (M+1).

reactant | 1-[5-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3yl]ethanone | 3.26 mmol, 1.14 g | C1(CCCC1)NC1=CC=2N(C=C1)N=C(C2C(C)=O)C2=CC=C(C=C2)OC | C21H23N3O2
reactant | Water | O | H2O
reactant | N,N-dimethylformamide dimethyl acetal | 25 mL | COC(N(C)C)OC | C5H13NO2
product | 1-[5-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 1.05 g, 80% | C1(CCCC1)NC1=CC=2N(C=C1)N=C(C2C(C=CN(C)C)=O)C2=CC=C(C=C2)OC | C24H28N4O2
